US07345180B2
2-t-Butyl-5,7-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid
3-Amino-5-t-butylpyrazole (1.6 g) and ethyl diacetoacetate (1.7 g) were dissolved in acetic acid (5 ml) and stirred for 3 hours at 120° C. The mixture was cooled to room temperature and concentrated under reduced pressure. Ethanol (10 ml) and 5 N sodium hydroxide solution (3 ml) were added to the residue and then stirred for 1 hour at 70° C. The mixture was cooled to room temperature, and water was added to the mixture which was then washed with ethyl acetate. 2 N Hydrochloric acid was added to the aqueous phase until it became acidic, and precipitated crystals were collected by filtration and washed with water and n-hexane. The product was dried under reduced pressure to give the title compound (2.1 g, Y.:78%) as white crystals.

reactant | 3-Amino-5-t-butylpyrazole | 1.6 g | NC1=NNC(=C1)C(C)(C)C | C7H13N3
reactant | ethyl diacetoacetate | 1.7 g | CCOC(=O)C(C(=O)C)C(=O)C | C8H12O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-t-Butyl-5,7-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 2.1 g, 78% | C(C)(C)(C)C1=NN2C(N=C(C(=C2C)C(=O)O)C)=C1 | C13H17N3O2
